US04925939
A mixture of 6-acetoxymethyl-5-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (3.14 g, 12.5 mmol) and selenium dioxide (2.09 g, 18.9 mmol) in glacial acetic acid (100 mL) is heated at reflux for 20 hours, and then the mixture is filtered through a Celite pad while hot. The filtrate is concentrated in vacuo, and the residue is crystallized from methanol to give 6-acetoxymethyl-5-formylpyrido[2,3-d]-pyrimidine-2,4(1H, 3H)-dione (2.94 g, 86.6%), mp 263°-264° C. (decomposition). 1H NMR (Me2SO-d6) d 2.02 (3H, s, Ac), 5.03 (2H, s, CH2), 8.75 (1H, s, H-7, 10.49 (1H, s, CHO).

reactant | 6-acetoxymethyl-5-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 12.5 mmol, 3.14 g | C(C)(=O)OCC1=C(C2=C(NC(NC2=O)=O)N=C1)C | C11H11N3O4
reactant | selenium dioxide | 18.9 mmol, 2.09 g | [Se](=O)=O | O2Se
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 6-acetoxymethyl-5-formylpyrido[2,3-d]-pyrimidine-2,4(1H, 3H)-dione | 2.94 g, 86.6% | C(C)(=O)OCC1=C(C2=C(NC(NC2=O)=O)N=C1)C=O | C11H9N3O5
